US05744612
Into the same device as used in Example 1 were placed 5.96 g (0.050 mole) of orthocyanophenol, 9.76 g (0.150 mole) of sodium azide, 20.65 g (0.150 mole) of triethylamine hydrochloride and 60 ml of toluene. The mixture wasreacted for 5 hours in the same manner as in Example 1, giving 7.95 g (0.049 mole) of 5-(2-hydroxyphenyl)-1H-tetrazole (yield 98.0% based on orthocyanophenol).

reactant | orthocyanophenol | 0.050 mole, 5.96 g | C(#N)C1=C(C=CC=C1)O | C7H5NO
reactant | sodium azide | 0.150 mole, 9.76 g | [N-]=[N+]=[N-].[Na+]
reactant | triethylamine hydrochloride | 0.150 mole, 20.65 g | Cl.C(C)N(CC)CC
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 5-(2-hydroxyphenyl)-1H-tetrazole | 0.049 mole, 7.95 g, yield 98.0% | OC1=C(C=CC=C1)C1=NN=NN1 | C7H6N4O
